US05604229
Diethyl acetamidomalonate (1.6 g) was dissolved in 30 ml of dehydrated ethanol and 505 mg of sodium ethoxide and 2 g of 3-bromopropyldodecyl sulfide were added thereto. The mixture was refluxed under a nitrogen atmosphere overnight. The reaction mixture was neutralized with concentrated hydrochloric acid-ethanol (1:11) and concentrated. The concentrate was purified by silica gel column chromatography using hexane-ethyl acetate (5:1→5:2) as an eluent to give 1.722 g of colorless, powdery diethyl 2-acetamido-2-(3-dodecylthiopropyl)malonate. IRν max (CHCl3): 3440, 2930, 2850, 1740, 1680, 1500, 1380, 1260, 1100, 1020, 860 cm-1 1 H-NMR (CDCl3 /TMS) δ: 0.88 (3H, t, J=7.4 Hz), 1.26 (18H, m), 1.26 (6H, t, J=7.3 Hz), 1.57 (4H, m), 2.04 (3H, s), 2.42 (2H, m), 2.47 (2H, t, J=7.3 Hz), 2.48 (2H, t, J=7.3 Hz), 4.25 (4H, q, J=7.4 Hz), 6.78 (1H, s)

reactant | Diethyl acetamidomalonate | 1.6 g | C(C)(=O)NC(C(=O)OCC)C(=O)OCC | C9H15NO5
reactant | sodium ethoxide | 505 mg | [O-]CC.[Na+]
reactant | 3-bromopropyldodecyl sulfide | 2 g | BrCCCSCCCCCCCCCCCC | C15H31BrS
reactant | hydrochloric acid ethanol | Cl.C(C)O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | diethyl 2-acetamido-2-(3-dodecylthiopropyl)malonate | C(C)(=O)NC(C(=O)OCC)(C(=O)OCC)CCCSCCCCCCCCCCCC | C24H45NO5S
